2171-02-16 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Left IJ placed
   - Right Arterial Line Placed.
   - Left PICC pulled
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2171-2-16**] 04:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-15**] 09:08 PM
   Fentanyl - [**2171-2-16**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 76 (70 - 80) bpm
   BP: 89/48(65) {89/46(63) - 148/73(105)} mmHg
   RR: 10 (8 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  1,277 mL
                                                                  2,201 mL
   PO:
   TF:
                                                                     33 mL
   IVF:
                                                                    677 mL
                                                                  2,118 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                    660 mL
                                                                    260 mL
   Urine:
                                                                    660 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    617 mL
                                                                  1,941 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.48/22/220/17/-4
   Ve: 11.6 L/min
   PaO2 / FiO2: 550
   Physical Examination
   General: Intubated.  Blinks eyes spontanously, but no other spontaneous
   movement.
   HEENT: Sclera anicteric, PERRL 3->2, periorbital and scleral edema,
   tongue and lips appear swollen/enlarged but without obvious mucosal
   ulcerations.
   Neck: supple, JVD difficult to appreciate, no LAD, RIJ in place.
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, distant heart sounds, no murmurs, rubs,
   gallops appreciated.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, liver edge palpable 2-3 cm below costal
   margin.  No evidence of ascites.
   Ext/Skin: warm, well perfused, 2+ pulses, no clubbing, cyanosis.
   Marked diffuse anasarca of UEs, LEs, torso.  Skin of arms with diffuse
   ecchymoses with few skin tears.  Legs (particularly R leg) and to
   lesser degree UEs with scattered large flaccid bullae; R leg with large
   area of erythema adjacent to fully denuded areas of skin - epidermis
   appears to be sloughing off at parts.
   Neuro: Minimal spontaneous movement (blinking occasionally) No movement
   of UEs or LEs to painful stimuli.
   Labs / Radiology
   65 K/uL
   11.0 g/dL
   191 mg/dL
   3.9 mg/dL
   17 mEq/L
   3.6 mEq/L
   34 mg/dL
   116 mEq/L
   152 mEq/L
   33.4 %
   20.0 K/uL
        [image002.jpg]
                             [**2171-2-15**]  04:23 PM
                             [**2171-2-16**]  03:48 AM
                             [**2171-2-16**]  06:20 AM
   WBC
   18.2
   20.0
   Hct
   32.6
   33.4
   Plt
   58
   65
   Cr
   4.0
   3.9
   TCO2
   17
   Glucose
   180
   191
   Other labs: PT / PTT / INR:20.4/45.1/1.9, CK / CKMB / Troponin-T:35//,
   ALT / AST:22/36, Alk Phos / T Bili:221/3.4, Amylase / Lipase:/4,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:314
   IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Imaging: - Abd US: IMPRESSION:
   1. Echogenic liver indicative of hepatic steatosis. Note that
   coexistent forms of hepatic disease such as cirrhosis or fibrosis are
   not excluded. 2. Patent portal vein with normal hepatopetal flow. 3.
   Small ascites and left pleural effusion. 4. Apparently dilated
   pancreatic duct without etiology. This finding merits further
   investigation with CT or MRCP.
   Microbiology: Urine Cx: Pending
   Blood Cx: Pending
   Cathter Tips (PICC and Right IJ): Pending
   Assessment and Plan
   69M with CKD, DM, bladder cancer, laryngeal cancer; admitted with
   dyspnea on exertion also with worsening anasarca, bilateral effusions,
   and subacute physical and cognitive decline; now transferred from OSH
   to [**Hospital1 1**] with severe encephalopathy.
   .
   # Encephalopathy.  Currently minimally responsive despite no sedatives
   (did get some midazolam at times during his OSH ICU stay, not clear
   when last received).  Very elevated ammonia level concerning.  No known
   liver disease prior to this admission.  No other meds that has been on
   immediately able to be implicated.  Depression but family strongly
   doubts other ingestions, and seems to have become markedly worse during
   hospital course.  Other than liver disease and toxins/meds,
   differential can also include myxedema coma (can also cause elevated
   ammonia) and had abnormal TFTs at OSH, though these were attributed to
   sick euthyroid.
   - Check tox panels.
   - Repeat ammonia here.
   - Repeat liver US and LFTs.
   - Check valproate level (?overdose/ingestion).
   - Thyroid workup as below.
   .
   # Respiratory failure.  Intubated primarily for airway protection; no
   documentation of oxygenation or ventilation problems prior to
   intubation (satting 100% on 2L).  Does have significant abnls on chest
   CT however (multiple areas of infiltrate, RUL ?consolidation vs. mass,
   bilateral effusions).  With worsening of mental status, no plans to
   liberate from vent yet.
   - Continue on AC settings.
   - No sedation.
   - Daily SBT.
   - VAP bundle.
   - Consider Aline for ABG monitoring vs. watching sats and VBGs.
   .
   # Hyperammonemia.  Ammonia levels >200 on multiple checks at OSH.
   Unexpected finding, as no clear reason to have hepatic encephalopathy.
   Too old for genetic metbolic disorders to manifest.  Hypothyroidism can
   lead to hyperammonemia, as can myeloma.  ?influence of TPN.
   - Check valproate as above.
   - Endocrine workup.
   - Hepatology consult in AM.
   - Check SPEP/UPEP.
   - Consider re-head CT to evaluate for cerebral edema.
   - Continue lactulose for now.
   .
   # Septic shock/hypotension.  BPs now improved, off pressors.  Concern
   for sepsis at OSH; no documented new infections yet (previous diagnosis
   of C.diff).
   - PICC line out, tip culture pending.
   - Check blood cultures.
   - Urine culture.
   - Send sputum and check CXR.
   - Review CT with radiology.
   - Consider re-tap of pleural effusions.
   - Antibiotics: vanco around (level >40) for coverage of line infection;
   will continue IV flagyl given C.diff.  Low threshold to add gram
   negative coverage as well (will hold off for now given desquamative
   rash).
   .
   # ?Hypothyroidism.  Low free TFTs on OSH labs.  Normal TSH.  OSH
   thought c/w sick euthyroid, but free T4 very low.  Dopa can also
   suppress TSH; ?contributing to discrepency of TSH and fT4.  Also
   consider secondary/pituitary problem.  If present could potentially
   link edema, encephalopathy, depression, ?hypotension.
   - Endocrine to see in AM.
   - Recheck TFTs here.
   - Per endocrine curbside tonight, recheck cortisol, antibodies, PRL,
   ACTH.
   - Defer giving T4 until endocrine consult and cortisol studies (in case
   patient adrenally insufficient as well).
   .
   # Rash. Desquamative particularly over extremities.  No mucosal lesions
   obvious.  Had derm see rash to rule out [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]/TEN. Per their
   evaluation, less likely inflammatory (drug rash) and more likely
   affects of anasarca and changing volume status (on dependent portions
   of body).
   - Appreciate derm recs.
   - Avoid denuding more skin.
   - Wound recs - Aquacel AG.
   - Monitor volume status closely; replete fluid and free water deficits.
   .
   # Anasarca.  Profound diffuse anasarca, pleural effusions, small
   pericardial effusion, ascites.  Low albumin at OSH; now improved but
   has received IV albumin [**Hospital1 **] at OSH.  Low prealbumin.  TTE recently
   within normal limits (mild diastolic dysfunction, otherwise normal).
   Does have CKD.  Concern for hypothyroidism as above.
   - Workup as above.
   - Nutrition support (prefer enteral).
   - Consider early renal consult for consideration of HD vs. CVVH.
   .
   # Acute on chronic renal insufficiency.  Worsening to 4 from baseline
   2.5-3.  Thought due to DM.  Acute component - ATN from hypotension,
   prerenal/overdiuresis, elevated vanc levels, other process.
   - Renal involvement tomorrow or in near future.
   - Avoid further renal insults, nephrotoxins, hypotension.
   - Check urine (protein, UA, NA, creatinine).
   - Check UPEP/SPEP.
   .
   # Hypernatremia.  Likely iatrogenic with free water losses from skin
   sloughing, meds, etc.  Also consider DI if concerned for pituitary
   process.  Significant free water deficit.
   - D5W x 2 liters at 125/hr.
   - Further adjustment based on response to above.
   .
   # Thrombocytopenia.  Pattern of drop would be concerning for HIT.
   However, PF4 negative.
   - Will hold heparin for now given line placement.
   - Place heparin free line.
   - Likely can safely restart given negative recent PF4; another one
   resent here.
   .
   # Metabolic acidosis.  AG 17 - worse in light of low albumin.  ?from
   renal failure.
   - Check lactate.
   - Urine for ketones.
   - Venous pH.
   .
   # DM.
   - ISS here.
   .
   # Recent PE/DVT.
   - Hold heparin for line as above; likely restart after line in place,
   though care given thrombocytopenia.
   .
   # C.diff colitis.
   - Continue IV flagyl.
   - Precautions.
   .
   # FEN: D5W as above, replete electrolytes, slow start TFs (?ileus at
   OSH).  No TPN for now.
   # Prophylaxis: heparin gtt, PPI
   # Access: RIJ from OSH; replace with new CVL.
   # Communication: wife [**Name (NI) 942**] [**Telephone/Fax (1) 10533**]
   # Code:  Full (discussed with family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2171-2-16**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT: Heparin SC.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2171-02-17 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2171-2-16**] 01:03 PM
 STOOL CULTURE - At [**2171-2-16**] 06:25 PM
   sent for c-diff
   - KUB wet read without frank dilatation or obstruction seen.
   - Hematology curbside consult recommended starting agatroban given
   concern for HIT, re-obtain PF4 and serotonin release.
   - Hepatology recommended IV thiamine (ordered), replace thyroxine (not
   ordered due to endocrinology recommendations), continue broad spectrum
   antibiotics, lactulose NG and enema daily, supportive care.
   - Endocrine recommended to 1) check full thyroid panel including TSH,
   total T4, total T3, T3 uptake - no treatment with thyroid hormone
   indicated at this time (ordered); 2) check free cortisol - no steroids
   at this time (ordered); 3) replace free water slowly; 4) continue ISS
   - Neurology recommended to continue 24 bedside EEG to see if he
   improves at all given more time off Versed, to get NCHCT to evaluate
   for grey-white matter differentiation once EEG leads are off, and to
   consider MRI/LP in the future if the patient does not improve.
   - [**Hospital1 10551**] formula of 18% of body surface area burn over back 7.2L over
   first 24 hours; 3.6L over first 8 hours. Ordered LR and will recheck
   electrolytes.
   - Attempted to load OSH images, but unable to load onto our PACS
   system.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2171-2-16**] 10:35 AM
   Cefipime - [**2171-2-16**] 08:00 PM
   Metronidazole - [**2171-2-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-16**] 08:00 PM
   Fentanyl - [**2171-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-17**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 80 (64 - 83) bpm
   BP: 98/52(70) {70/32(44) - 159/92(118)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 9 (2 - 305)mmHg
   Total In:
                                                                  8,396 mL
                                                                  2,100 mL
   PO:
   TF:
                                                                    106 mL
   IVF:
                                                                  8,070 mL
                                                                  1,980 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    305 mL
   Urine:
                                                                    765 mL
                                                                    305 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  7,331 mL
                                                                  1,795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: 7.48/18/119/13/-6
   Ve: 15 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: Intubated.  Blinks eyes spontaneously, but no other
   spontaneous movement.
   HEENT: Sclera anicteric, PERRL 3->2, periorbital and scleral edema,
   tongue and lips appear swollen/enlarged but without obvious mucosal
   ulcerations. Eyes with chemosis.
   Neck: Supple, LIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, distant heart sounds, no murmurs, rubs,
   gallops appreciated.
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, liver edge palpable 2-3 cm below costal
   margin.  No evidence of ascites.
   Ext/Skin: Warm, well perfused, 2+ pulses, no clubbing, cyanosis.
   Marked diffuse anasarca of UEs, LEs, torso.  Skin of arms with diffuse
   ecchymoses with desquamation and sloughing of skin. Bilateral posterior
   legs (worse on R) with desquamation on pressure dependent areas with
   erythema, weeping.
   Neuro: Minimal spontaneous movement (blinking occasionally); No
   movement of UEs or LEs to painful stimuli; pupils reactive
   Labs / Radiology
   54 K/uL
   9.9 g/dL
   113 mg/dL
   3.5 mg/dL
   13 mEq/L
   3.5 mEq/L
   31 mg/dL
   119 mEq/L
   152 mEq/L
   30.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2171-2-15**]  04:23 PM
                             [**2171-2-16**]  03:48 AM
                             [**2171-2-16**]  06:20 AM
                             [**2171-2-16**]  03:23 PM
                             [**2171-2-16**]  09:30 PM
                             [**2171-2-17**]  03:22 AM
                             [**2171-2-17**]  03:45 AM
   WBC
   18.2
   20.0
   19.8
   15.9
   13.8
   Hct
   32.6
   33.4
   33.0
   30.3
   30.0
   Plt
   58
   65
   72
   53
   54
   Cr
   4.0
   3.9
   3.8
   3.7
   3.5
   TCO2
   17
   14
   Glucose
   180
   191
   144
   112
   113
   Other labs: PT / PTT / INR:26.3/83.8/2.6, CK / CKMB / Troponin-T:35//,
   ALT / AST:19/33, Alk Phos / T Bili:209/1.9, Amylase / Lipase:/5,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.1 g/dL, LDH:231
   IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   [**2171-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2171-2-16**]  SEROLOGY/BLOOD RAPID PLASMA REAGIN TEST-PENDING
   [**2171-2-16**]  CATHETER TIP-IV WOUND CULTURE-PENDING
   [**2171-2-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2171-2-15**]  MRSA SCREEN MRSA SCREEN-PENDING
   [**2171-2-15**]  URINE URINE CULTURE-FINAL
      URINE CULTURE (Final [**2171-2-16**]):    NO GROWTH.
   [**2171-2-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2171-2-15**]  CATHETER TIP-IV WOUND CULTURE-PRELIMINARY INPATIENT
      WOUND CULTURE (Preliminary):    No significant growth.
   Assessment and Plan
   69M with CKD, DM, bladder cancer, laryngeal cancer; admitted with
   dyspnea on exertion also with worsening anasarca, bilateral pulmonary
   effusions, and subacute physical and cognitive decline; now transferred
   from OSH to [**Hospital1 1**] with severe encephalopathy.
   .
   # Encephalopathy.  Wide differential. Reports of hypotension previously
   can indicate component of anoxic brain injury. This might explain
   components of renal failure [**2-26**] poor perfusion and skin sloughing also
   [**2-26**] poor perfusion. Hyperammonemia may be contributing to component of
   hepatic encephalopathy. Possible hepatic dysfunction may prolong the
   time it takes to clear Versed. Abnormal thyroid function initially
   concerning for myxedema coma, but less likely at this time. Would also
   consider seizure and infectious encephalitis. Valproic level < 3; less
   likely ingestion.
   - Follow Neurology recommendations; appreciate their input and
   assessment of poor activity on 20 minute EKG. This will determine how
   we manage dermatology, renal, burn care consults as below.
   - Continue 24 hour EEG
   - Consider MRI/LP if patient does not improve
   - Follow Endocrinology recommendations; appreciate their input; await
   endocrinologic workup
   - Follow Hepatology recommendations; appreciate their input
   .
   # Respiratory failure. Patient was intubated primarily for airway
   protection and there is no documentation of oxygenation or ventilation
   problems prior to intubation (was saturating 100% on 2L).
   - Unlikely candidate for SBT, extubation at this time given diffuse
   encephalopathy
   .
   # Rash. Desquamative particularly over extremities.  No mucosal lesions
   obvious.  Dermatology has evaluated rash to rule out [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]/TEN. Per their evaluation, less likely inflammatory (drug rash)
   and more likely affects of anasarca and changing volume status (on
   dependent portions of body). Question whether hypoperfusion of skin may
   also lead to these changes. Nursing staff concerned regarding care of
   skin denudation.
   - Follow Dermatology recommendations; appreciate their input
   - Avoid denuding more skin
   - Wound recs - Aquacel AG and Silvadene
   - Will need to calculate for insensible losses and replete aggressively
   with fluids as if burn patient (consider burn unit if further denuding
   occurs)
   - Consider burn care consult pending neuro recommendations
   .
   # Septic shock/hypotension. Hypotension currently improved. Previous
   concern for sepsis vs volume depletion given insensible fluid loss. No
   documented new infections yet (previous diagnosis of C.diff).  Levophed
   currently off. Unable to load outside hospital CT in our PACS system.
   - Consider Levophed to maintain MAP > 60
   - Follow cultures including PICC tip
   - Daily blood culture
   - Trend CXR
   - Send sputum
   - Consider re-imaging CT
   - Continue Vancomycin PO, Flagyl, Cefepime
   - Low threshold for skin wound culture given concern for Pseudomonas
   .
   # Hyperammonemia.  Ammonia levels >200 on multiple checks at OSH and
   continues to be at that level here. Unexpected finding, as no clear
   reason to have hepatic encephalopathy. Question whether component of it
   is related with TPN. Otherwise, consider hypothyroidism, multiple
   myeloma (also likely given lack of anion gap). Patient age unlikely for
   genetic metabolic disorder.
   - Follow Endocrinology recommendations; appreciate their input; await
   endocrinologic workup
   - Follow Hepatology recommendations; appreciate their input
   - Follow SPEP/UPEP
   - Continue lactulose
   - Consider re-head CT to evaluate for cerebral edema
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   .
   # Hypothyroidism. Low free TFTs on OSH labs. Normal TSH.  OSH thought
   c/w sick euthyroid, but free T4 very low. Dopa can also suppress TSH
   and may be contributing to discrepancy of TSH and fT4.  Also consider
   secondary/pituitary problem.  If present could potentially link edema,
   encephalopathy, depression, hypotension.
   - Follow Endocrinology recommendations; appreciate their input; await
   endocrinologic workup
   - Defer treatment at this time as likely sick euthyroid
   .
   # Anasarca.  Profound diffuse anasarca, pleural effusions, small
   pericardial effusion, ascites. Low albumin at OSH; now improved but has
   received IV albumin [**Hospital1 **] at OSH. Low prealbumin. TTE recently within
   normal limits (mild diastolic dysfunction, otherwise normal).  Does
   have CKD.  Concern for hypothyroidism as above.
   - Workup as above
   - Nutrition support (prefer enteral)
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   .
   # Acute on chronic renal insufficiency.  Worsening to 4 from baseline
   2.5-3.  Thought due to DM.  Acute component - ATN from hypotension,
   prerenal/overdiuresis, elevated vanc levels, other process. FeNa 6%.
   Appropriate salt wasting [**2-26**] hypernatremia or ATN.
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   - Avoid further renal insults, nephrotoxins, hypotension
   - Follow SPEP/UPEP
   .
   # Metabolic acidosis. Worsening at this time also in light of low
   albumin. Question etiology from renal failure.
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   .
   # Hypernatremia.  Likely iatrogenic with free water losses from skin
   sloughing, meds, etc.  Also consider DI if concerned for pituitary
   process.  Significant free water deficit.
   - Aggressive fluid repletion; [**Hospital1 10551**] formula deficit 7.2L over
   24hours for 18% denuded surface area
   - Will need to calculate for insensible losses and replete aggressively
   with fluids
   - Monitor electrolytes
   .
   # Thrombocytopenia.  Pattern of drop would be concerning for HIT.
   However, PF4 negative. Suspicion is high.
   - Hold heparin at this time
   - Start argatroban
   - Resend PF4, serotonin release assay
   .
   # Recent PE/DVT
   - Hold heparin at this time
   - Start argatroban
   .
   # h/o C.Diff colitis.
   - Continue precaution
   - Continue antibiotics as above
   .
   # DM.
   - ISS
   .
   # FEN: IVF as above, replete electrolytes, no TPN for now
   # Prophylaxis: Argatroban, PPI
   # Access: IJ
   # Communication: Wife, [**Name (NI) 942**], [**Telephone/Fax (1) 10533**]
   # Code:  Full, discussed with family. Family remains optimistic
   regarding patient
s situation, and they will need to be continued to be
   updated pending neurology recommendations and results of the patient
   24 hour EEG.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-02-17 10:44:00 Physician Attending Progress Note
Chief Complaint: 69 year man with DOE, profound encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2171-2-16**] 01:03 PM
 STOOL CULTURE - At [**2171-2-16**] 06:25 PM
   sent for c-diff
   Start Argatroban for PE in presence of prior PE's with HIT
   EEG was flat line ordered for 24 hr EEG to monitor - concern about
   anoxic brain injury
   Weaned sedation
   Replaced free water deficit
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2171-2-16**] 10:35 AM
   Cefipime - [**2171-2-16**] 08:00 PM
   Metronidazole - [**2171-2-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-16**] 08:00 PM
   Fentanyl - [**2171-2-17**] 09:00 AM
   Other medications:
   colace, lactulose, argatroban - hold, thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-17**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 76 (72 - 83) bpm
   BP: 116/59(111) {79/43(58) - 159/92(118)} mmHg
   RR: 15 (11 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 5 (2 - 9)mmHg
   Total In:
                                                                  8,396 mL
                                                                  2,705 mL
   PO:
   TF:
                                                                    106 mL
   IVF:
                                                                  8,070 mL
                                                                  2,535 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    425 mL
   Urine:
                                                                    765 mL
                                                                    425 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  7,331 mL
                                                                  2,280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.48/18/119/13/-6
   Ve: 14.7 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Min reactive pupils; + corneal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  denuded, weeping, edematous skin in dependent areas
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   9.9 g/dL
   54 K/uL
   113 mg/dL
   3.5 mg/dL
   13 mEq/L
   3.5 mEq/L
   31 mg/dL
   119 mEq/L
   152 mEq/L
   30.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2171-2-15**]  04:23 PM
                             [**2171-2-16**]  03:48 AM
                             [**2171-2-16**]  06:20 AM
                             [**2171-2-16**]  03:23 PM
                             [**2171-2-16**]  09:30 PM
                             [**2171-2-17**]  03:22 AM
                             [**2171-2-17**]  03:45 AM
   WBC
   18.2
   20.0
   19.8
   15.9
   13.8
   Hct
   32.6
   33.4
   33.0
   30.3
   30.0
   Plt
   58
   65
   72
   53
   54
   Cr
   4.0
   3.9
   3.8
   3.7
   3.5
   TCO2
   17
   14
   Glucose
   180
   191
   144
   112
   113
   Other labs: PT / PTT / INR:26.3/83.8/2.6, CK / CKMB / Troponin-T:35//,
   ALT / AST:19/33, Alk Phos / T Bili:209/1.9, Amylase / Lipase:/5,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.1 g/dL, LDH:231
   IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR - Unchanged
   Assessment and Plan
   69M with CKD, DM, bladder cancer, laryngeal cancer; admitted with
   dyspnea on exertion also with worsening anasarca, bilateral effusions,
   and subacute physical and cognitive decline; now transferred from OSH
   to [**Hospital1 1**] with severe encephalopathy.
   # Encephalopathy.  Currently minimally responsive despite no sedatives
   (did get some midazolam at times during his OSH ICU stay, not clear
   when last received).  Very elevated ammonia level concerning.  No known
   liver disease prior to this admission.  No other meds that has been on
   immediately able to be implicated.  Depression but family strongly
   doubts other ingestions, and seems to have become markedly worse during
   hospital course.  - Thyroid workup as below. Most likely
   hypoxic/hypotensive brain/kidney/liver injury
   # Respiratory failure.  Intubated primarily for airway protection; no
   documentation of oxygenation or ventilation problems prior to
   intubation (satting 100% on 2L).  Does have significant abnls on chest
   CT however (multiple areas of infiltrate, RUL ?consolidation vs. mass,
   bilateral effusions).  With worsening of mental status, no plans to
   liberate from vent yet.
   - Continue on AC settings.
   - No sedation.
    - VAP bundle.
   - Consider Aline for ABG monitoring vs. watching sats and VBGs.
   # Hyperammonemia.  Ammonia levels >200 on multiple checks at OSH.
   Unexpected finding, as no clear reason to have hepatic encephalopathy.
   Too old for genetic metbolic disorders to manifest.  Hypothyroidism can
   lead to hyperammonemia, as can myeloma.  ?influence of TPN.
    - Check valproate as above.
    Head CT to evaluate for cerebral edema.
   -Continue lactulose for now.
   # Septic shock/hypotension.  BPs now improved, off pressors.  Concern
   for sepsis at OSH; no documented new infections yet (previous diagnosis
   of C.diff).
   - PICC line out, tip culture pending.
   - Check blood cultures.
   - Urine culture.
   - Send sputum and check CXR.
   - Antibiotics: vanco around (level >40) for coverage of line infection;
   will continue IV flagyl given C.diff.  Low threshold to add gram
   negative coverage as well (will hold off for now given desquamative
   rash).
   # ?Hypothyroidism.  Low free TFTs on OSH labs.  Normal TSH.  Endocrine
   thought c/w sick euthyroid, but free T4 very low.  .
   # Rash. Desquamative particularly over extremities.  No mucosal lesions
   obvious.  Ask Briham Burn Unit for rec's on care
   # Anasarca.  Mild diffuse anasarca, small pericardial effusion,
   ascites.  Low albumin at OSH; now improved but has received IV albumin
   [**Hospital1 **] at OSH.  Low prealbumin.  TTE recently within normal limits (mild
   diastolic dysfunction, otherwise normal).  Does have CKD. Acute liver
   disease, Concern for hypothyroidism as above.
   - Workup as above.
   - Nutrition support (prefer enteral).
   # Acute on chronic renal insufficiency.  Worsening to 4 from baseline
   2.5-3.  Acute component - ATN from hypotension, prerenal/overdiuresis,
   elevated vanc levels, other process.
    # Hypernatremia.  Likely iatrogenic with free water losses from skin
   sloughing, meds, etc.  Also consider DI if concerned for pituitary
   process.  Significant free water deficit.
   - D5W x 2 liters at 125/hr.
   - Further adjustment based on response to above.
   # Thrombocytopenia.  Pattern of drop would be concerning for HIT.
   However, PF4 negative.
   - Will hold heparin for now given line placement
   _On Argatroban
   # Metabolic acidosis.  AG 17 - worse in light of low albumin.  ?from
   renal failure.
   # DM.
    - ISS here.
   # Recent PE/DVT.
    Argatroban because of HIT
   - Hold heparin for line as above; likely restart after line in place,
   though care given thrombocytopenia
   # C.diff colitis.
   - Continue IV flagyl.
    - Precautions.
   # FEN: D5W as above, replete electrolytes, slow start TFs (?ileus at
   OSH).  No TPN for now.
   # Prophylaxis: boots, PPI
   # Access: RIJ from OSH; replaced with new CVL.
   # Communication: wife [**Name (NI) 942**] [**Telephone/Fax (1) 10533**]
   # Code:  Full (discussed with family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2171-02-18 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spoke with dermatology in the AM and they recommended bariatric bed,
   silvadene. They will stop by in the PM - they recommend Aquacel AG.
   Bacitracin written for in case needed given near exhaustion of supply
   of Aquacel AG.
   - Nurses expressing concern about care and are suggesting possible
   transfer to burn unit.
   - Plastics asked to come in a.m. - will need to be consulted in a.m.
   - Neurology read head CT as reduced grey/white distinction in parietal
   cortex with effacement of gyri posteriorly. Read EEG as markedly
   reduced amplitude, without obvious slow activity - not really
   consistent with metabolic encephalopathy, nor PRES. Most consistent
   with anoxic injury. Wise to attempt correction of metabolic
   disturbance. Avoid sedation. Repeat CT or perform MRI on [**2-18**] (edema
   likely more evident then). No need for 24 hr EEG given no seizure
   activity.
   - 24 hr EEG started. Can possibly be stopped on [**2-18**].
   - Talked to wife, daughters and other family members. Described likely
   brain injury with poor prognosis. Discussed this as a decision point -
   i.e. neurologic injury will be something that we discuss with family in
   planning further goals. They have begun to speak about this. Mentioned
   importance of staying on top of serious skin condition while
   determining neurologic prognosis.
   - Vancomcyin level 35.1 - continuing to hold
   - Still very hyper-Na/Cl lytes. Gave D51/2NS and stated water flushes
   of OG. Repeated lytes at 22:00 -
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2171-2-16**] 10:35 AM
   Cefipime - [**2171-2-17**] 08:00 PM
   Metronidazole - [**2171-2-18**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-17**] 08:00 PM
   Fentanyl - [**2171-2-18**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-18**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 80 (68 - 85) bpm
   BP: 120/62(83) {79/49(65) - 126/89(111)} mmHg
   RR: 16 (12 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 4 (2 - 5)mmHg
   Total In:
                                                                  4,423 mL
                                                                  1,819 mL
   PO:
   TF:
   IVF:
                                                                  4,183 mL
                                                                  1,799 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                  1,050 mL
   Urine:
                                                                    705 mL
                                                                    100 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    500 mL
                                                                    950 mL
   Drains:
   Balance:
                                                                  3,118 mL
                                                                    769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/20/114/11/-8
   Ve: 15.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General: Intubated.  Blinks eyes spontaneously, but no other
   spontaneous movement.
   HEENT: Sclera anicteric, PERRL 3->2, periorbital and scleral edema,
   tongue and lips appear swollen/enlarged but without obvious mucosal
   ulcerations. Eyes with chemosis.
   Neck: Supple, LIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, distant heart sounds, no murmurs, rubs,
   gallops appreciated.
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, liver edge palpable 2-3 cm below costal
   margin.  No evidence of ascites.
   Ext/Skin: Warm, well perfused, 2+ pulses, no clubbing, cyanosis.
   Marked diffuse anasarca of UEs, LEs, torso.  Skin of arms with diffuse
   ecchymoses with desquamation and sloughing of skin. Bilateral posterior
   legs (worse on R) with desquamation on pressure dependent areas with
   erythema, weeping.
   Neuro: Minimal spontaneous movement (blinking occasionally); No
   movement of UEs or LEs to painful stimuli; pupils reactive
   Labs / Radiology
   60 K/uL
   10.1 g/dL
   207 mg/dL
   3.8 mg/dL
   11 mEq/L
   4.2 mEq/L
   32 mg/dL
   123 mEq/L
   153 mEq/L
   31.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2171-2-16**]  03:23 PM
                             [**2171-2-16**]  09:30 PM
                             [**2171-2-17**]  03:22 AM
                             [**2171-2-17**]  03:45 AM
                             [**2171-2-17**]  09:55 AM
                             [**2171-2-17**]  04:53 PM
                             [**2171-2-17**]  09:51 PM
                             [**2171-2-17**]  11:35 PM
                             [**2171-2-18**]  03:26 AM
                             [**2171-2-18**]  03:27 AM
   WBC
   19.8
   15.9
   13.8
   14.1
   11.9
   Hct
   33.0
   30.3
   30.0
   30.2
   31.5
   Plt
   72
   53
   54
   63
   60
   Cr
   3.8
   3.7
   3.5
   3.6
   3.6
   3.5
   3.8
   TCO2
   14
   14
   13
   Glucose
   144
   112
   113
   116
   140
   180
   207
   Other labs: PT / PTT / INR:25.1/73.5/2.4, CK / CKMB / Troponin-T:35//,
   ALT / AST:22/33, Alk Phos / T Bili:241/1.3, Amylase / Lipase:/5,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:3.1 g/dL, LDH:227
   IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   TSH: 3.1
   T4: 2.0
   T3:  38
   Serotonin Release Antibody: Pending
   ACTH: Pending
   Heparin Dependent Antibody: Pending
   Cortisol, Free: Pending
   Vancomycin: 31.2
   Imaging: CT Head: 1. Subcortical white matter hypodensities in the
   frontal lobes and
   posteroparietal lobe could reflect chronic small vessel ischemic
   disease,
   findings are not typical for anoxic or hypotensive event. MRI is
   recommended
   for further assessment.
   2. Mucosal thickening and fluid in the paranasal sinuses, likely
   related to
   intubation.
   3. Opacification of mastoid air cells bilaterally.
   CXR: Pending.
   Microbiology: RPR: Non Reactive
   Blood Culture: Pending
   ECG: No New
   EEG: Pending
   Assessment and Plan
   69M with CKD, DM, bladder cancer, laryngeal cancer; admitted with
   dyspnea on exertion also with worsening anasarca, bilateral pulmonary
   effusions, and subacute physical and cognitive decline; now transferred
   from OSH to [**Hospital1 1**] with severe encephalopathy.
   .
   # Encephalopathy.  Wide differential. Reports of hypotension previously
   can indicate component of anoxic brain injury. This might explain
   components of renal failure [**2-26**] poor perfusion and skin sloughing also
   [**2-26**] poor perfusion. Hyperammonemia may be contributing to component of
   hepatic encephalopathy. Possible hepatic dysfunction may prolong the
   time it takes to clear Versed. Abnormal thyroid function initially
   concerning for myxedema coma, but less likely at this time. Would also
   consider seizure and infectious encephalitis. Valproic level < 3; less
   likely ingestion.
   - Follow Neurology recommendations; appreciate their input and
   assessment of poor activity on 20 minute EKG. This will determine how
   we manage dermatology, renal, burn care consults as below.
   - Continue 24 hour EEG
   - Consider MRI/LP if patient does not improve
   - Follow Endocrinology recommendations; appreciate their input; await
   endocrinologic workup
   - Follow Hepatology recommendations; appreciate their input
   .
   # Respiratory failure. Patient was intubated primarily for airway
   protection and there is no documentation of oxygenation or ventilation
   problems prior to intubation (was saturating 100% on 2L).
   - Unlikely candidate for SBT, extubation at this time given diffuse
   encephalopathy
   .
   # Rash. Desquamative particularly over extremities.  No mucosal lesions
   obvious.  Dermatology has evaluated rash to rule out [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]/TEN. Per their evaluation, less likely inflammatory (drug rash)
   and more likely affects of anasarca and changing volume status (on
   dependent portions of body). Question whether hypoperfusion of skin may
   also lead to these changes. Nursing staff concerned regarding care of
   skin denudation.
   - Follow Dermatology recommendations; appreciate their input
   - Avoid denuding more skin
   - Wound recs - Aquacel AG and Silvadene
   - Will need to calculate for insensible losses and replete aggressively
   with fluids as if burn patient (consider burn unit if further denuding
   occurs)
   - Consider burn care consult pending neuro recommendations
   .
   # Septic shock/hypotension. Hypotension currently improved. Previous
   concern for sepsis vs volume depletion given insensible fluid loss. No
   documented new infections yet (previous diagnosis of C.diff).  Levophed
   currently off. Unable to load outside hospital CT in our PACS system.
   - Consider Levophed to maintain MAP > 60
   - Follow cultures including PICC tip
   - Daily blood culture
   - Trend CXR
   - Send sputum
   - Consider re-imaging CT
   - Continue Vancomycin PO, Flagyl, Cefepime
   - Low threshold for skin wound culture given concern for Pseudomonas
   .
   # Hyperammonemia.  Ammonia levels >200 on multiple checks at OSH and
   continues to be at that level here. Unexpected finding, as no clear
   reason to have hepatic encephalopathy. Question whether component of it
   is related with TPN. Otherwise, consider hypothyroidism, multiple
   myeloma (also likely given lack of anion gap). Patient age unlikely for
   genetic metabolic disorder.
   - Follow Endocrinology recommendations; appreciate their input; await
   endocrinologic workup
   - Follow Hepatology recommendations; appreciate their input
   - Follow SPEP/UPEP
   - Continue lactulose
   - Consider re-head CT to evaluate for cerebral edema
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   .
   # Hypothyroidism. Low free TFTs on OSH labs. Normal TSH.  OSH thought
   c/w sick euthyroid, but free T4 very low. Dopa can also suppress TSH
   and may be contributing to discrepancy of TSH and fT4.  Also consider
   secondary/pituitary problem.  If present could potentially link edema,
   encephalopathy, depression, hypotension.
   - Follow Endocrinology recommendations; appreciate their input; await
   endocrinologic workup
   - Defer treatment at this time as likely sick euthyroid
   .
   # Anasarca.  Profound diffuse anasarca, pleural effusions, small
   pericardial effusion, ascites. Low albumin at OSH; now improved but has
   received IV albumin [**Hospital1 **] at OSH. Low prealbumin. TTE recently within
   normal limits (mild diastolic dysfunction, otherwise normal).  Does
   have CKD.  Concern for hypothyroidism as above.
   - Workup as above
   - Nutrition support (prefer enteral)
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   .
   # Acute on chronic renal insufficiency.  Worsening to 4 from baseline
   2.5-3.  Thought due to DM.  Acute component - ATN from hypotension,
   prerenal/overdiuresis, elevated vanc levels, other process. FeNa 6%.
   Appropriate salt wasting [**2-26**] hypernatremia or ATN.
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   - Avoid further renal insults, nephrotoxins, hypotension
   - Follow SPEP/UPEP
   .
   # Metabolic acidosis. Worsening at this time also in light of low
   albumin. Question etiology from renal failure.
   - Consider renal consult for consideration of HD pending neuro
   recommendations
   .
   # Hypernatremia.  Likely iatrogenic with free water losses from skin
   sloughing, meds, etc.  Also consider DI if concerned for pituitary
   process.  Significant free water deficit.
   - Aggressive fluid repletion; [**Hospital1 10551**] formula deficit 7.2L over
   24hours for 18% denuded surface area
   - Will need to calculate for insensible losses and replete aggressively
   with fluids
   - Monitor electrolytes
   .
   # Thrombocytopenia.  Pattern of drop would be concerning for HIT.
   However, PF4 negative. Suspicion is high.
   - Hold heparin at this time
   - Start argatroban
   - Resend PF4, serotonin release assay
   .
   # Recent PE/DVT
   - Hold heparin at this time
   - Start argatroban
   .
   # h/o C.Diff colitis.
   - Continue precaution
   - Continue antibiotics as above
   .
   # DM.
   - ISS
   .
   # FEN: IVF as above, replete electrolytes, no TPN for now
   # Prophylaxis: Argatroban, PPI
   # Access: IJ
   # Communication: Wife, [**Name (NI) 942**], [**Telephone/Fax (1) 10533**]
   # Code:  Full, discussed with family. Family remains optimistic
   regarding patient
s situation, and they will need to be continued to be
   updated pending neurology recommendations and results of the patient
   24 hour EEG.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:  No TPN for Now
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT: Argatroban
   Stress ulcer:  PPI
   VAP:  Mouth Care, Head of bed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2171-02-18 10:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Encephalopathy, Desquamating skin
   lesions, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Head CT - ? consistent with anoxic injury
   Remains hypernatremic to 153
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2171-2-16**] 10:35 AM
   Cefipime - [**2171-2-17**] 08:00 PM
   Metronidazole - [**2171-2-18**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-17**] 08:00 PM
   Fentanyl - [**2171-2-18**] 02:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-2-18**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 77 (68 - 85) bpm
   BP: 121/64(86) {100/57(73) - 126/89(111)} mmHg
   RR: 16 (12 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 286 (4 - 286)mmHg
   Total In:
                                                                  4,423 mL
                                                                  2,729 mL
   PO:
   TF:
   IVF:
                                                                  4,183 mL
                                                                  2,709 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                  1,105 mL
   Urine:
                                                                    705 mL
                                                                    155 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    500 mL
                                                                    950 mL
   Drains:
   Balance:
                                                                  3,118 mL
                                                                  1,624 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/20/114/11/-8
   Ve: 14.4 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, did not examine lesions on back - deferred until
   RN care
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   60 K/uL
   207 mg/dL
   3.8 mg/dL
   11 mEq/L
   4.2 mEq/L
   32 mg/dL
   123 mEq/L
   153 mEq/L
   31.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2171-2-16**]  03:23 PM
                             [**2171-2-16**]  09:30 PM
                             [**2171-2-17**]  03:22 AM
                             [**2171-2-17**]  03:45 AM
                             [**2171-2-17**]  09:55 AM
                             [**2171-2-17**]  04:53 PM
                             [**2171-2-17**]  09:51 PM
                             [**2171-2-17**]  11:35 PM
                             [**2171-2-18**]  03:26 AM
                             [**2171-2-18**]  03:27 AM
   WBC
   19.8
   15.9
   13.8
   14.1
   11.9
   Hct
   33.0
   30.3
   30.0
   30.2
   31.5
   Plt
   72
   53
   54
   63
   60
   Cr
   3.8
   3.7
   3.5
   3.6
   3.6
   3.5
   3.8
   TCO2
   14
   14
   13
   Glucose
   144
   112
   113
   116
   140
   180
   207
   Other labs: PT / PTT / INR:25.1/73.5/2.4, CK / CKMB / Troponin-T:35//,
   ALT / AST:22/33, Alk Phos / T Bili:241/1.3, Amylase / Lipase:/5,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:3.1 g/dL, LDH:227
   IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 LIVER FUNCTION ABNORMALITIES
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   69M with CKD, DM, bladder cancer, laryngeal cancer; admitted with
   dyspnea on exertion also with worsening anasarca, bilateral effusions,
   and subacute physical and cognitive decline; now transferred from OSH
   to [**Hospital1 1**] with severe encephalopathy.  He has multiple problems feeding
   into his critical illness but no unifying diagnosis.  Unfortunately,
   even without a diagnosis, with his degree and number of organ failures,
   hypoalbunemia, poor neurologic function, his prognosis is grim.
   # Encephalopathy.  Appreciate ongoing neuro input.  Getting EEG.  CT
   scan with perhaps some evidence of anoxic injury - but he has no
   documented episodes of anoxia.
   # Respiratory failure.  Intubated initially of airway protection -
   mental status remains very poor.  He has a high MV that is partially a
   response to metabolic acidosis and also partially likely central in
   etiology
   # Hyperammonemia.  Remains elevated - unclear etiology.  Also with
   hypoalbunemia and elevated alk phos.  F/U SPEP/UPEP
   # Septic shock/hypotension.  BP stable off pressors
   -Vanc by level and cefepime.
   # ?Hypothyroidism.  Labs c/w euthyroid sick.
   # Rash. Desquamative particularly over extremities.  Ongoing care per
   derm - appreciate their ongoing
   #Hypoalbunemia: Etiology unclear.
   # Acute on chronic renal insufficiency.  Cr 3.8 today.  Currently on LR
   and D5 with 3amps of bicarb.
    # Hypernatremia.  Likely iatrogenic with free water losses from skin
   sloughing, meds, etc.  Also consider DI if concerned for pituitary
   process.  Significant free water deficit.
   Aim to make inroads to correction today.
   # Thrombocytopenia.  PF4 negative but will cont argatroban for DVT
   # Metabolic acidosis.  Ongoing large metabolic gap acidosis.
   # C.diff colitis.
   - Continue IV flagyl, po vanc
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT: Boots(argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments: Will need to have a frank discussion with the
   family about the poor prognosis - I unfortunately do not see a path
   toward improvement.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2171-02-19 07:54:00 Physician Resident Progress Note
Chief Complaint: Desquamating skin and altered mental status
   (transferred from [**Hospital1 327**]).
   24 Hour Events:
   - Attending spoke with daughter, they understand poor prognosis, plan
   for meeting with HCP on Tuesday to discuss goals of care
   - Neuro: If he continues to have a poor exam despite correcting the
   metablic derangements, will consider MRI head
   - Hepatology: Nothing New
   - While being turned at 1730, developed some ectopy and pressure
   dropped to low of 50's (Map 30). Fluid bolused and levophed started
   very briefly, BP returned to [**Location 838**] range. ABG: Alkalotic, EKG without
   concerning ST-T wave changes. Lytes: Stable.
   - Fluids: 1.5 liters Bicarb, 2 liters D5W, 1 liter NS (while pressure
   was low), 2 liter LR for low urine output,  Overnight plan for two more
   liters D5W 125cc
   - Seizure-Like Activity overnight twitching motion involving head and
   upper extremity, lasting less than one minute. Glucose normal. Sodium
   rechecked and 143. Rate 1-2meq/L/hr -> started ativan this morning.
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2171-2-16**] 10:35 AM
   Cefipime - [**2171-2-18**] 08:00 PM
   Metronidazole - [**2171-2-19**] 04:23 AM
   Vancomycin - [**2171-2-19**] 04:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-18**] 08:46 PM
   Fentanyl - [**2171-2-19**] 12:08 AM
   Lorazepam (Ativan) - [**2171-2-19**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-19**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 80 (68 - 80) bpm
   BP: 85/51(65) {85/51(65) - 132/68(93)} mmHg
   RR: 15 (12 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 288 (11 - 296)mmHg
   Total In:
                                                                  9,056 mL
                                                                  3,229 mL
   PO:
   TF:
   IVF:
                                                                  8,966 mL
                                                                  3,159 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    148 mL
   Urine:
                                                                    555 mL
                                                                    148 mL
   NG:
   Stool:
                                                                    950 mL
   Drains:
   Balance:
                                                                  7,551 mL
                                                                  3,081 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.52/18/148/16/-4
   Ve: 12.2 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Eyes / Conjunctiva: Sclera edema, Pupils reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Breath sounds clear with transmitted upper airway and vent sounds.
   Difficult to appreciate heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   ), Difficult to appreciate
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Diffuse blistering, denudation of epidermis, weeping, Rash:
   Neurologic: Relex spreading; notable pout; corneal decreased with
   spread to facial spasm. Some head rotating movments. Left toe up, right
   no response. Scratching of hand > poorly coordinated withdrawal of arm
   from shoulder. Patella, bicep, brachio reflexes absent. No(t)
   Attentive, Unresponsive, Neither alert nor oriented, No(t) Sedated,
   No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   62 K/uL
   10.0 g/dL
   70 mg/dL
   3.2 mg/dL
   16 mEq/L
   4.5 mEq/L
   28 mg/dL
   115 mEq/L
   143 mEq/L
   30.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2171-2-17**]  04:53 PM
                             [**2171-2-17**]  09:51 PM
                             [**2171-2-17**]  11:35 PM
                             [**2171-2-18**]  03:26 AM
                             [**2171-2-18**]  03:27 AM
                             [**2171-2-18**]  12:54 PM
                             [**2171-2-18**]  01:02 PM
                             [**2171-2-18**]  05:23 PM
                             [**2171-2-19**]  01:38 AM
                             [**2171-2-19**]  01:52 AM
   WBC
   11.9
   13.8
   Hct
   31.5
   30.3
   Plt
   60
   62
   Cr
   3.6
   3.5
   3.8
   3.3
   3.2
   TCO2
   14
   13
   14
   15
   Glucose
   140
   180
   207
   369
   78
   70
   Other labs: PT / PTT / INR:21.2/59.4/2.0, CK / CKMB / Troponin-T:35//,
   ALT / AST:20/35, Alk Phos / T Bili:212/1.5, Amylase / Lipase:/5,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:217
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Fluid analysis / Other labs: Ceruleplasmin 5.
   Imaging: No new images.
   Microbiology: Cultures negative.
   ECG: No new.
   Assessment and Plan
   Mr. [**Known lastname 5502**] is a 69 year-old man with sub-acute decline in mental
   status, anasarca that presented to [**Hospital 327**] Hospital with shortness of
   breath on [**2170-2-2**]. At that time his ammonia level was 223 and he was
   slurring speech and somewhat somnolent. He spent 10 days on the floor.
   During the admission he was transferred to the ICU, intubated and
   started on pressors. It appears that hypotension was an issue at that
   time. He became unresponsive at this time, we think, although this is
   not well documented. He was transferred to [**Hospital1 1**] with desquamative skin
   and comatose.
   # Altered mental status
   Numerous contribitors are present, but the overall picture is that of
   vastly decreased cortical function, consistent with anoxic brain
   injury. There are no findings that argue against this specifically,
   although very ammonia, hypernatremia and low ceruloplasmin (5 at OSH)
   may be contributing. Release signs are present with prominent snout
   reflex and wincing on corneal. Non-localizing withdrawal of right arm
   on tactile stimulation.
   - Correct sodium and recheck ammonia if possible
   - Stop all sedation and analgesic medications given no evidence of
   cortical function
   - Do not re-image for now
 unlikely helpful
   # Adventitious head movements
   Several muscle groups
 therefore cortical. Suggestive of seizure
   activity. Secondary to anoxic injury with some sparing of motorneurons
   versus edema and mass effect.
   - Dilantin 1 g then check in 4 hrs; 100 mg TID after
   - Imaging not indicated at the moment.
   # Desquamating skin reaction
   Unclear etiology, but unifying diagnosis would be heartening. Not
   likely [**Last Name (LF) **], [**First Name3 (LF) 24**] Derm., who think that this is most likely secondary to
   previously dramatic anasarca and then microtrauma of being in bed.
   - Continue broad spectrum antibiotics (started for
   pneumonia/sepsis/C.diff) given unable to apply antimicrobial
   - [**Hospital1 **] dressing changes
   - Appreciate Dermatology input
   - Treat as for burn
 copious fluids that respect hypernatremia and low
   bicarbonate
   # Respiratory Failure
   Agonal brainstem breathing, +/- liver breathing. Appears brainstem also
   affected based on reflexes/exam, thus likely neurologic. Also
   contributions by expansion acidosis.
   - Continue AC ventilation compatible with central rhythm
   # Goals of Care
   - Family meeting at 3 p.m. today.
   # Hypotension
   Clear loss of spinal reflexes and pupils small suggesting sympathetic
   output likely lower at brainstem or spinal level.
   - Continue fluid support as indicated by urine output (fluid balance
   not accurate due to cutaneous losses)
   - Low threshold to use pressors to stabilize while determining goals of
   care
   # Hyperammonemia
   Unclear. [**Name2 (NI) **] late to present with metabolic disorder, although not
   impossible. No valproic acid recently. Has liver failure and pancreatic
   calcification of unknown etiology. Family claim little to no alcohol
   use.
   - Repeat ammonia level today
   # ESR
   Was 0 in OSH. This means no settling over one hour. Should therefore be
   suspicious for inflammatory causes of this presentation.
   - Repeat ESR
   # Hypothyroidism
   Likely sick euthyroid.
   # Hypernatremia
   Corrected quite quickly
 concerning. 5 mEq over nine hours maximal
   rate from labs. Unlikely problem in itself, but may be edema from
   anoxic brain injury and the two together may become significant.
   - [**Hospital1 **] labs and caution with solutions that contain no sodium. 1/2NS
   likely okay because of hypotonic skin losses
   # Anasarca
   Liver failure, low albumin and renal failure, now with large fluid
   shift and protein losses through skin. Will likely worsen.
   # Renal failure
   Creatinine now lower, but not baseline (2.2) suggesting that we are
   keeping up with fluid requirement.
   -Continue fluids
   # Liver failure
   Unclear cause. Fatty changes suggested by ultrasound. [**Month (only) 11**] be cause of
   low albumin, low ceruloplasmin
   # Low ceruloplasmin
   (5) in OSH. Not low enough for [**Location (un) 1729**]
s and metabolism likely disturbed
   with liver failure. Acerulopasminemia or Menkes do not fit. Would not
   explain present event.
   # PE/DVT
   - Continue intermittent argatroban (lowest dose deliverable too high,
   so will need to try 3 hours on 3 hours off today (previous minimum dose
   halving should be good estimation as first step.
   # C. diff.
   In OSH. Therefore flagyl and precautions.
   # Antibiotics
   Started for PNA/sepsis and now likely providing broad coverage for open
   skin.
   - Continue for now.
   # DM
   Well controlled at present.
   - ISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT: Boots and argatroban
   Stress ulcer: pantoprazole
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Family meeting later today.
   Code status: Full code at present
 please ckeck again later today
   after family meeting at 1500
   Disposition:

2171-02-19 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal Failure, Encephalopathy,
   Diffuse skin sloughing
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Sz-like activity this AM
   24 Hour Events:
   Episode of hypotension last PM with turn/wound care.  Resolved
   spontaneously after short time on norepi
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2171-2-18**] 08:00 PM
   Metronidazole - [**2171-2-19**] 04:23 AM
   Vancomycin - [**2171-2-19**] 04:23 AM
   Infusions:
   Dilantin - 2,000 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-2-18**] 08:46 PM
   Fentanyl - [**2171-2-19**] 12:08 AM
   Lorazepam (Ativan) - [**2171-2-19**] 04:41 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-2-19**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 86 (68 - 93) bpm
   BP: 77/41(53) {72/41(53) - 132/68(93)} mmHg
   RR: 16 (12 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 288 (11 - 296)mmHg
   Total In:
                                                                  9,056 mL
                                                                  4,930 mL
   PO:
   TF:
   IVF:
                                                                  8,966 mL
                                                                  4,860 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    193 mL
   Urine:
                                                                    555 mL
                                                                    193 mL
   NG:
   Stool:
                                                                    950 mL
   Drains:
   Balance:
                                                                  7,551 mL
                                                                  4,737 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.52/18/148/16/-4
   Ve: 16 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, witness
   sz: head bobs to the left and shoulder twitches
   Labs / Radiology
   10.0 g/dL
   62 K/uL
   70 mg/dL
   3.2 mg/dL
   16 mEq/L
   4.5 mEq/L
   28 mg/dL
   115 mEq/L
   143 mEq/L
   30.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2171-2-17**]  04:53 PM
                             [**2171-2-17**]  09:51 PM
                             [**2171-2-17**]  11:35 PM
                             [**2171-2-18**]  03:26 AM
                             [**2171-2-18**]  03:27 AM
                             [**2171-2-18**]  12:54 PM
                             [**2171-2-18**]  01:02 PM
                             [**2171-2-18**]  05:23 PM
                             [**2171-2-19**]  01:38 AM
                             [**2171-2-19**]  01:52 AM
   WBC
   11.9
   13.8
   Hct
   31.5
   30.3
   Plt
   60
   62
   Cr
   3.6
   3.5
   3.8
   3.3
   3.2
   TCO2
   14
   13
   14
   15
   Glucose
   140
   180
   207
   369
   78
   70
   Other labs: PT / PTT / INR:21.2/59.4/2.0, CK / CKMB / Troponin-T:35//,
   ALT / AST:20/35, Alk Phos / T Bili:212/1.5, Amylase / Lipase:/5,
   Differential-Neuts:89.7 %, Lymph:8.1 %, Mono:1.8 %, Eos:0.2 %,
   Fibrinogen:133 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:217
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 LIVER FUNCTION ABNORMALITIES
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   69M with CKD, DM, bladder cancer, laryngeal cancer; admitted with
   dyspnea on exertion also with worsening anasarca, bilateral effusions,
   and subacute physical and cognitive decline; now transferred from OSH
   to [**Hospital1 1**] with severe encephalopathy.  He has multiple problems feeding
   into his critical illness but no unifying diagnosis.  Unfortunately,
   even without a diagnosis, with his degree and number of organ failures,
   hypoalbunemia, poor neurologic function/seizures, his prognosis is
   grim.
   # Encephalopathy.  Now with evidence of seizures - starting Dilantin.
   Appreciate ongoing neuro input - in addition to all of his other
   medical issues, his neurologic prognosis is poor
   # Respiratory failure.  Intubated initially of airway protection -
   mental status remains very poor.  Has worsening resp alkaosis that is
   likely reflective of his deteriorating neurologic status
   # Septic shock/hypotension.  Pressors off after briefly being on
   yesterday
   -Vanc by level and cefepime.
   # Rash. Desquamative particularly over dependent areas.  Cont wound
   care.
   #Hypoalbunemia: Etiology unclear.
   # Acute on chronic renal insufficiency.  Cr down to 3.2
    # Hypernatremia.  Has now corrected --> will back off on fH20
   repletion
   # Thrombocytopenia.  PF4 negative.  Argatroban causes PTT to become
   supratherapeutic at even low doses
   # C.diff colitis.
   - Continue IV flagyl, po vanc
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-2-16**] 12:04 AM
   Arterial Line - [**2171-2-16**] 01:50 AM
   Prophylaxis:
   DVT: (argatroban (being held))
   Stress ulcer: PPI
   VAP:
   Comments: Planning on family meeting this afternoon to replect goals of
   care.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with family earlier this afternoon, including wife and 2
   daughters.  They expressed their wish to transition his care to CMO
   given that there is essentially no opportunity for meaningful recovery
   and his worsening neuro status.  He was extubated after being seen by
   the chaplain.  He expired at around 5:30PM.
   Time spent 20 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2171-2-19**] 19:07 ------